US07902252B2
4.21. Synthesis of methyl 6-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.502 g, 1.0 mmol) was reacted with 3-bromobenzylmagnesium bromide (28 mL, 2.5 mmol) according to General Procedure 3 to give the carbinol-containing compound methyl 6-(3-bromobenzyl)-6-hydroxy-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, followed by hydrogenation with PtO2 (0.045 g, 0.20 mmol) according to General Procedure 6, and was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-30% EtOAc/heptane affording the title compound as a slightly yellow solid: 0.257 g (60% yield). 1H NMR (400 MHz, ACETONE-d6) δ ppm 2.08-2.13 (m, 1H), 2.37-2.47 (m, 3H), 2.71 (dd, J1=13.47 Hz, J2=8.98 Hz, 1H), 3.19 (dd, J1=13.47 Hz, J2=4.69 Hz, 1H), 3.36-3.42 (m, 1H), 3.74 (s, 3H), 6.53 (d, J=1.9 Hz, 1H), 7.18-7.26 (m, 2H), 7.37-7.39 (m, 2H), 10.50 (s, 1H); LCMS-MS (ESI−) 332.0 (M−H).

reactant | methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.0 mmol, 0.502 g | O=C1CCC2=C1NC(=C2)C(=O)OC | C9H9NO3
reactant | 3-bromobenzylmagnesium bromide | 2.5 mmol, 28 mL | BrC=1C=C(C[Mg]Br)C=CC1
reactant | methyl 6-(3-bromobenzyl)-6-hydroxy-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | BrC=1C=C(CC2(CCC3=C2NC(=C3)C(=O)OC)O)C=CC1 | C16H16BrNO3
catalyst | PtO2 | 0.20 mmol, 0.045 g | O=[Pt]=O
solvent | carbinol | CO | CH4O
product | methyl 6-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 60% yield | BrC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C16H16BrNO2
